US06953857B2
(i) 3-[2-(2,4-Dichlorophenyl)-ethoxy]-benzoic acid methyl ester
2 g (13.1 mmol) of 3-hydroxybenzoic acid methyl ester and 4.75 g (18.1 mmol) of triphenylphosphine were dissolved in 48 ml of anhydrous tetrahydrofuran. The solution was cooled to 0° C. and a solution of 3.04 g (17.5 mmol) DEAD in 7 ml of anhydrous tetrahydrofuran was added dropwise over 20 min. The solution was stirred at RT for 45 min. and a solution of 2.76 g (14.5 mmol) of 2-(2,4-Dichlorophenyl)-ethanol in 3 ml anhydrous tetrahydrofuran was added. The reaction was stirred for 16 h at RT. The solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate/n-heptane (4/1).

reactant | 3-hydroxybenzoic acid methyl ester | 13.1 mmol, 2 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | triphenylphosphine | 18.1 mmol, 4.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 17.5 mmol, 3.04 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-(2,4-Dichlorophenyl)-ethanol | 14.5 mmol, 2.76 g | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-[2-(2,4-Dichlorophenyl)-ethoxy]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C16H14Cl2O3
